US03969463
Using the procedure of Example 45, 6,7-dihydro-8-methoxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid is reacted with hydrobromic acid to provide 6,7-dihydro-8-hydroxy-5-methyl-1-oxo-1H,5H-benzo [ij]quinolizine-2-carboxylic acid, m.p. >300° C.

reactant | 6,7-dihydro-8-methoxy-5-methyl-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | COC1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C15H15NO4
reactant | hydrobromic acid | Br | BrH
product | 6,7-dihydro-8-hydroxy-5-methyl-1-oxo-1H,5H-benzo [ij]quinolizine-2-carboxylic acid | OC1=CC=C2C(C(=CN3C(CCC1=C23)C)C(=O)O)=O | C14H13NO4
